US04654343
N,N,N'-Trimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea
A suspension of 1.0 g of N,N-dimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea and 0.09 g of sodium hydride in 100 ml of dry dimethylformamide was stirred for 30 minutes, then 0.23 ml of methyl iodide was added. This solution was stirred overnight, then poured into saturated aqueous sodium bicarbonate and extracted with four 100 ml portions of dichloromethane. The extracts were combined and treated as described in Example 19, giving 0.8 g of the desired product as off-white crystals mp 159°-161° C.

reactant | N,N-dimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea | 1.0 g | CN(C(=O)NC1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C)C | C15H16N6O
reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | methyl iodide | 0.23 ml | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N,N,N'-Trimethyl-N'-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]urea | 0.8 g | CN(C(=O)N(C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C)C)C | C16H18N6O
